data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_555759_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[N:5]\[H:9])[C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([N:7]([H:8])[H:10])[H:11]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:5]([H:8])[H:9])/[C:6](=[N:7]/[H:10])[H:11],51.68340999999003
MR_533904_0,[C:1](=[C:2]([N:4]([H:11])[H:12])[N:5]([H:13])[H:14])(/[C:3]([C:6](=[C:7]([H:17])[H:18])[H:16])=[N:9]/[H:15])[O:8][H:10]>>[C:1](/[C:2](=[N:4]/[H:12])[N:5]([H:13])[H:14])(=[C:3](\[C:6](=[C:7]([H:17])[H:18])[H:16])[N:9]([H:11])[H:15])[O:8][H:10],3.989017500023096
MR_301933_0,[C:1]1([C:4]([O:8][C:2]([C:5]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[H:10])([H:15])[H:16])([H:9])[C:3]([H:13])([H:14])[O:7]1>>[C:1]([C:3](=[O:7])[H:13])([C:4]([O:8][C:2]([C:5]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[H:10])([H:15])[H:16])([H:9])[H:14],62.37914749998751
MR_125317_0,[C:1]([O:3][N:2]([H:7])[H:8])([O:4][H:6])=[O:5]>>[C:1](=[O:3])([O:4][H:6])[O:5][N:2]([H:7])[H:8],55.81361499997769
MR_441641_0,[C:1]([C:4]([C:2](=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:5]([H:9])[H:10])=[C:8]([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:3](=[C:2]([N:5]([H:9])[H:10])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])=[C:8]([H:18])[H:19])([H:15])([H:16])[H:17],65.91071750002413
MR_518927_1,[C:1]1([H:12])([H:13])[C:5]([C:2]([H:16])([H:17])[H:18])([C:8]([N:7]([H:10])[H:11])([H:14])[H:22])[C:6]1([C:3]([H:19])([H:20])[H:21])[C:9](=[C:4]([H:23])[H:24])[H:15]>>[C:1](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:8](\[N:7]([H:10])[H:11])[H:14])(/[C:6]([C:3]([H:19])([H:20])[H:21])=[C:9](\[C:4]([H:22])([H:23])[H:24])[H:15])([H:12])[H:13],34.908452500003335
MR_256404_0,[C:1]1([H:10])([H:11])[C:4](=[O:7])[C:2]([N:3]([H:8])[H:9])([O:6][H:12])[O:5]1>>[C:1]([C:4](=[O:7])[H:12])([O:5][C:2]([N:3]([H:8])[H:9])=[O:6])([H:10])[H:11],37.74349750001505
MR_268646_1,[C:1]1([H:11])([H:12])[C:5]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])([H:10])[C:6]1([C:4](=[O:8])[H:9])[H:13]>>[C:1]([C:4](=[O:8])[H:9])(/[C:6](=[C:5](/[C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])[H:10])[H:13])([H:11])[H:12],69.57970999999915
MR_404920_1,[C@@:1]12([H:10])[N:4]([H:9])[C:2]([H:15])([H:16])[C@:6]1([C:3]([H:17])([H:18])[H:19])[C:5]2([N:7]([H:13])[H:14])[N:8]([H:11])[H:12]>>[C:1]1([C:6]([C:3]([H:17])([H:18])[H:19])=[C:5]([N:7]([H:13])[H:14])[N:8]([H:11])[H:12])([H:10])[C:2]([H:15])([H:16])[N:4]1[H:9],57.170897499975126
MR_268748_1,[C:1](/[C:4](=[C:3](\[N:2]([O:5][H:8])[O:6][H:7])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:4]1([H:10])[N:2]([O:6][H:7])[C@@:3]1([O:5][H:8])[H:9])([H:11])([H:12])[H:13],41.65721500001425
MR_102933_1,[C:1](/[C:4]([C:7](=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:13])=[C:8](/[C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]1=[C:7]([H:13])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:8]1([C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17],47.66866499996056
MR_187258_0,[C:1](\[N:2]([H:8])[H:9])(=[C:3](\[N:6]=[N:7]\[H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12]>>[C:1]([N:2]([H:8])[H:9])(=[C:3](\[C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])/[N:6]=[N:7]/[H:10],71.43397250002593
MR_60604_2,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([N:6]=[C:4]([H:13])[H:14])=[O:7])([O:5][H:8])[H:9]>>[C:1]1([O:5][H:8])([H:9])[C:3]([C:2]([H:10])([H:11])[H:12])([N:6]=[C:4]([H:13])[H:14])[O:7]1,71.19489500002317
MR_347882_1,[C:1]1([H:9])([H:10])/[C:4](=[N:7]\[H:8])[N:6]1/[C:5](=[N:3]/[C:2]([H:12])([H:13])[H:14])[H:11]>>[C:1]1([H:9])([H:10])[N:3]([C:2]([H:12])([H:13])[H:14])[C:5]([H:11])=[N:6]/[C:4]1=[N:7]/[H:8],36.00155749999004
MR_515286_2,[C:1]([N:4]([C:6](=[O:9])[H:10])/[N:8]=[C:7](\[N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[N:8]/[C:7]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([C:6](=[O:9])[H:10])[H:11])([H:12])([H:13])[H:14],69.12916500003092
MR_413394_0,[C:1](/[C:3](=[N:5]/[C:2]([O:4][H:7])=[N:6]/[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([H:9])[N:5]=[C:2]([O:4][H:7])[N:6]1[H:8])([H:10])([H:11])[H:12],36.61023249998706
MR_84620_0,[C:1](/[N:7]=[N:6]/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:4](/[O:5][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:4]([O:5][H:8])([H:9])[C:3]([C:2]([H:13])([H:14])[H:15])=[N:6]1)([H:10])([H:11])[H:12],33.8222499999992
MR_602724_0,[C:1]1([O:7][H:8])([H:9])[O:5][C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:10])[O:6]1>>[C:1]([O:5]/[C:3]([C:2]([H:11])([H:12])[H:13])=[C:4](\[O:6][H:8])[H:10])(=[O:7])[H:9],28.99238250003023
MR_229004_1,[C:1](/[C:4]([N:3]([O:6][H:9])[H:10])=[N:8]/[H:11])([N:7][C:5]([C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])/[C:4](=[N:8]/[H:11])[N:7]1[C@:5]([C:2]([H:15])([H:16])[H:17])([N:3]([O:6][H:9])[H:10])[H:14],70.91251999998704
MR_159575_1,[C:1](/[C:4](=[N:7]/[H:9])[H:12])(/[N:6]=[C:3](\[C:2]([H:13])([H:14])[H:15])[O:5][H:8])([H:10])[H:11]>>[C:1]1([H:10])([H:11])/[C:4](=[N:7]/[H:9])[N:6]1[C@@:3]([C:2]([H:13])([H:14])[H:15])([O:5][H:8])[H:12],63.34675249997005
